US05356916
There were dissolved, in 20 ml of dry N,N-dimethylformamide, 1.797 g of 4-(3-chloropropoxy)benzonitrile, 985 mg of 2-methylimidazole and 1 765 g of a 90% potassium t-butoxide, then the resulting solution was stirred at room temperature for 4.5 hours, poured into ice water, the resulting precipitates were filtered off and washed with water. The precipitates were recrystallized from a mixed solution of ethanol and water to give 1.682 g (yield 69.7%) of 4-[3-(2-methylimidazol-1-yl) propoxy]benzonitrile.

reactant | 4-(3-chloropropoxy)benzonitrile | 1.797 g | ClCCCOC1=CC=C(C#N)C=C1 | C10H10ClNO
reactant | 2-methylimidazole | 985 mg | CC=1NC=CN1 | C4H6N2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[3-(2-methylimidazol-1-yl) propoxy]benzonitrile | 1.682 g, yield 69.7% | CC=1N(C=CN1)CCCOC1=CC=C(C#N)C=C1 | C14H15N3O
